US06339090B1
(−)-4-(3,4-Difluorophenyl)-3,6-dimethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic Acid
(−)-4-(3,4-Difluorophenyl)-3,6-dimethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid methyl ester (650 mg, 2.19 mmol) was dissolved in methanol (10 ml), treated with 2.5N sodium hydroxide (10 ml), and warmed to 500° C. for 8hr. The solvent was removed in vacuo, the remaining aqueous phase treated with 10% KHSO4 (aq), and extracted with ethyl acetate (3X). The extracts were combined, washed with brine, dried over magnesium sulfate, filtered and concentrated to dryness in vacuo to give a crude oil. Crystallization from diethyl ether gave the product as a white solid [αD]=−128°, c=0.20 MeOH).

reactant | (−)-4-(3,4-Difluorophenyl)-3,6-dimethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid methyl ester | 2.19 mmol, 650 mg | COC(=O)C=1C(N(C(NC1C)=O)C)C1=CC(=C(C=C1)F)F | C14H14F2N2O3
reactant | sodium hydroxide | 2.5N, 10 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (−)-4-(3,4-Difluorophenyl)-3,6-dimethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic Acid | FC=1C=C(C=CC1F)C1N(C(NC(=C1C(=O)O)C)=O)C | C13H12F2N2O3
